US05032301
Preparation of 1-(3-phenoxyphenoxy)-1-(phenylthio)-2,3,3,3-tetrafluoropropene
Eleven g (0.1 mole) of thiophenol and 150 ml 1,2-dimethoxy ethane are placed into a flask and stirred under nitrogen while 2.3 g of metal sodium are added in portions. When this reaction is complete, 32 g of 1-(3-phenoxyphenoxy)perfluoropropene are added dropwise causing a slight exotherm. The mixture is stirred at 75° C. for six hours following this addition. After cooling, 150 ml of dilute base water solution is added and the mixture is stirred. The product layer is separated and washed with 150 ml water, separated, dried over sodium sulfate, filtered and distilled to produce the title compound as an oil in a yield of 38 percent. The oil has a pour point of -26° C. and a boiling range of 150° to 190° C. at 0.5 mm Hg.

reactant | thiophenol | 0.1 mole | C1(=CC=CC=C1)S | C6H6S
reactant | 1,2-dimethoxy ethane | 150 ml | COCCOC | C4H10O2
reactant | sodium | [Na] | Na
reactant | 1-(3-phenoxyphenoxy)perfluoropropene | 32 g | O(C1=CC=CC=C1)C=1C=C(OC(=C(C(F)(F)F)F)F)C=CC1 | C15H9F5O2
solvent | water | 150 ml | O | H2O
product | 1-(3-phenoxyphenoxy)-1-(phenylthio)-2,3,3,3-tetrafluoropropene | yield of 38 percent | O(C1=CC=CC=C1)C=1C=C(OC(=C(C(F)(F)F)F)SC2=CC=CC=C2)C=CC1 | C21H14F4O2S
